US08314100B2
1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(4-methoxyphenyl)piperazine (Compound 46)
Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate and 1-(4-methoxyphenyl)piperazine were reacted by the same way with the example 43 to obtain the titled compound (yield, 80%). 1H NMR (200 MHz, CDCl3): δ 2.48 (s, 3H), 3.16-3.14 (m, 4H), 3.78-3.82 (m, 6H), 4.13 (s, 4H), 6.84-7.02 (m, 4H), 7.14-7.33 (m, 3H), 7.53-7.64 (m, 1H).

reactant | Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)C | C13H15N3O3
reactant | 1-(4-methoxyphenyl)piperazine | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
product | 1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(4-methoxyphenyl)piperazine | 80% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC=C(C=C1)OC)C | C22H25N5O3
